US07838543B2
2-(3,4-Dichloro-phenoxy)-N-[2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-acetamide
Prepare according to the procedures described in Example 1, step 4, Method B, using 3,4-dichlorophenoxyacetic acid (135 mg, 0.611 mmol) and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (162 mg, 0.618 mmol) to afford the title compound, mass spectrum (m/e): 465 [M+H], 463 [M−H].

reactant | 3,4-dichlorophenoxyacetic acid | 0.611 mmol, 135 mg | ClC=1C=C(OCC(=O)O)C=CC1Cl | C8H6Cl2O3
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.618 mmol, 162 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | 2-(3,4-Dichloro-phenoxy)-N-[2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-acetamide | ClC=1C=C(OCC(=O)NC2=CC3=C(N=C(S3)N3CC(CC3)N(C)C)C=C2)C=CC1Cl | C21H22Cl2N4O2S
